US08871756B2
2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine
To a solution of 2-chloro-6-methylquinazolin-4-amine (454 mg, 2.345 mmol) in n-butanol (5 mL) was added 2,3,4,5-tetrahydro-1,4-benzothiazepine (388 mg, 2.345 mmol). After being heated at 150° C. for 1.5 hours under microwave irradiation, the reaction mixture was filtered and the collected solid was washed with ether to afford 756 mg of the product as a white solid. MS obsd. (ESI+) [(M+H)+] 323, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.92 (s, 1 H), 7.83-7.81 (d, J=8.0 Hz, 1 H), 7.62-7.60 (d, J=8.0 Hz, 1 H), 7.53-7.49 (m, 2 H), 7.29-7.25 (m, 1 H), 7.22-7.19 (m, 1 H), 4.98 (s, 2 H), 4.25 (s, 2 H), 2.98 (s, 2 H), 2.35 (s, 3 H).

reactant | 2-chloro-6-methylquinazolin-4-amine | 2.345 mmol, 454 mg | ClC1=NC2=CC=C(C=C2C(=N1)N)C | C9H8ClN3
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | 2.345 mmol, 388 mg | S1CCNCC2=C1C=CC=C2 | C9H11NS
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | 2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | 756 mg | S1CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)N)C | C18H18N4S
